US06809094B2
5-BROMO-2-METHYLSULFANYL-BENZOOXAZOLE
5-Bromo-3H-benzooxazole-2-thione (530 mg, 2.30 mmol) was dissolved in DMF (5.75 mL). Potassium carbonate (318 mg, 2.30 mmol) and iodomethane (172 μL, 2.76 mmol) were added and the reaction mixture was allowed to stir at RT for 3.5 h. The mixture was diluted with water (10 mL) and extracted with ethyl acetate (4×10 mL). The combined organic extracts were washed with water (3×10 mL), brine (10 mL) and dried (Na2SO4), filtered and concentrated to afford 538 mg (96%) of the title compound as a dark brown solid: 1H NMR (CDCl3, 400 MHz) δ 7.72 (d, 1H, J=2.1 Hz), 7.36-7.26 (m, 2H), 2.75 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 167.6, 151.2, 143.8, 126.9, 121.6, 117.3, 111.2, 14.8; MS (Cl) m/z 244.0 (M+1); HPLC retention time=5.10 min.

reactant | 5-Bromo-3H-benzooxazole-2-thione | 2.30 mmol, 530 mg | BrC=1C=CC2=C(NC(O2)=S)C1 | C7H4BrNOS
reactant | Potassium carbonate | 2.30 mmol, 318 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 2.76 mmol, 172 μL | IC | CH3I
solvent | DMF | 5.75 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 5-BROMO-2-METHYLSULFANYL-BENZOOXAZOLE | 538 mg, 96% | BrC=1C=CC2=C(N=C(O2)SC)C1 | C8H6BrNOS
